US06037354
To a solution of (2R, 3S)-3-amino-3-(3,4-difluorophenyl)-2-hydroxypropionic acid methyl ester (5.8 g, 25 mmol) in 250 mL tetrahydrofuran at 0° C. was added N,N-diisopropylethylamine (8.75 mL, 50 mmol) and triphosgene (2.48 g, 8.4 mmol). The reaction was stirred at 0° C. for 30 min when it was poured over ethyl acetate (200 mL) and saturated sodium carbonate solution (100 mL). The layers were separated, the organic layer washed with saturated sodium carbonate solution (1×100 mL), dried with magnesium sulfate, and concentrated in vacuo to provide a pale yellow oil. The material was triturated with 25% ethyl acetate/hexane from dichloromethane to provide (4S,5R)-4-(3,4-difluorophenyl)-2-oxo-oxazolidine-5-carboxylic acid methyl ester. The recovered mother liqour was passed through silica (50% ethyl acetate/hexane) to give an additional 1.1 g (4.8 g total, 18 mmol, 75%)

reactant | (2R, 3S)-3-amino-3-(3,4-difluorophenyl)-2-hydroxypropionic acid methyl ester | 25 mmol, 5.8 g | COC([C@@H]([C@H](C1=CC(=C(C=C1)F)F)N)O)=O | C10H11F2NO3
reactant | N,N-diisopropylethylamine | 50 mmol, 8.75 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | triphosgene | 8.4 mmol, 2.48 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | sodium carbonate | 100 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | (4S,5R)-4-(3,4-difluorophenyl)-2-oxo-oxazolidine-5-carboxylic acid methyl ester | COC(=O)[C@H]1[C@@H](NC(O1)=O)C1=CC(=C(C=C1)F)F | C11H9F2NO4
